US06001997
(b) Methyl (2RS,5SR)-5-(2-chloroacetyl)tetrahydro-2-furoate
Oxalyl chloride (1.55 ml) was added to a stirred solution of (2RS, 5SR) -5-methoxycarbonyltetrahydrofuran-2-ylcarboxylic acid (2.00 g) in dichloromethane (30 ml). Dimethylformamide (1 drop) was added and the mixture stirred at room temperature for 1 h, and then heated to reflux for 10 min. The mixture was cooled and the solvent removed on a rotary evaporator. Chloroform was then evaporated from the residue twice. The residue was dissolved in dichloromethane (100 ml) and the solution cooled in an ice bath, then excess diazomethane was passed into the solution. The mixture was stirred at 0° C. for 15min and then excess hydrogen chloride was passed into the solution. The solution was washed with brine, dried over magnesium sulphate and evaporated. The title compound (2.02 g) was isolated by column chromatography of the residue using gradient elution (silica gel, 4:1 going to 1:1 hexane:ethyl acetate); νmax (CHCl3) 1740 cm-1 ; δH (CDCl3) 1.9-2.5 (4 H, m), 3.71 (3 H, s), 4.45-4.8 (2 H, m), 4.54 (1 H, d, J 18 Hz) and 4.89 (1 H, d, J 18 Hz).

reactant | Oxalyl chloride | 1.55 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-methoxycarbonyltetrahydrofuran-2-ylcarboxylic acid | 2.00 g | COC(=O)C1CCC(O1)C(=O)O | C7H10O5
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | Dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | Methyl (2RS,5SR)-5-(2-chloroacetyl)tetrahydro-2-furoate | 2.02 g | ClCC(=O)C1CCC(O1)C(=O)OC | C8H11ClO4
